US04268598
N-Methyltrifluoromethanesulfonamidomethanephosphonic acid;
2-(N-Methyltrifluoromethanesulfonamido)ethanephosphonic acid; 3-(N-Ethylperfluoroethanesulfonamido)propanephosphonic acid; 3-(N-Methylperfluorohexanesulfonamido)propanephosphonic acid; 3-(N-Ethylperfluorododecanesulfonamido)propanephosphonic acid; 3-(N-Ethylperfluorooctadecanesulfonamido)propanephosphonic acid; 11-(N-Ethylperfluorooctanesulfonamido)undecanephosphonic acid; 6-(N-Methylperfluorobutanesulfonamido)hexanephosphonic acid; 3-(N-Methyl-1,1-dihydroperfluorobutanesulfonamido)propanephosphonic acid; 3-(N-Methylperfluorocyclohexanesulfonamido)propanephosphonic acid; 3-(N-Methyl-1,2-dihydroperfluorobutanesulfonamido)propanephosphonic acid;

reactant | 2-(N-Methyltrifluoromethanesulfonamido)ethanephosphonic acid | CN(S(=O)(=O)C(F)(F)F)CCP(O)(=O)O | C4H9F3NO5PS
reactant | 3-(N-Ethylperfluoroethanesulfonamido)propanephosphonic acid | C(C)N(S(=O)(=O)C(C(F)(F)F)(F)F)CCCP(O)(=O)O | C7H13F5NO5PS
reactant | 3-(N-Methylperfluorohexanesulfonamido)propanephosphonic acid | CN(S(=O)(=O)C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)CCCP(O)(=O)O | C10H11F13NO5PS
reactant | 3-(N-Ethylperfluorododecanesulfonamido)propanephosphonic acid | C(C)N(S(=O)(=O)C(C(C(C(C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)CCCP(O)(=O)O | C17H13F25NO5PS
reactant | 3-(N-Ethylperfluorooctadecanesulfonamido)propanephosphonic acid | C(C)N(S(=O)(=O)C(C(C(C(C(C(C(C(C(C(C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)CCCP(O)(=O)O | C23H13F37NO5PS
reactant | 11-(N-Ethylperfluorooctanesulfonamido)undecanephosphonic acid | C(C)N(S(=O)(=O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)CCCCCCCCCCCP(O)(=O)O | C21H29F17NO5PS
reactant | 6-(N-Methylperfluorobutanesulfonamido)hexanephosphonic acid | CN(S(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)CCCCCCP(O)(=O)O | C11H17F9NO5PS
reactant | 3-(N-Methylperfluorocyclohexanesulfonamido)propanephosphonic acid | CN(S(=O)(=O)C1(C(C(C(C(C1(F)F)(F)F)(F)F)(F)F)(F)F)F)CCCP(O)(=O)O | C10H11F11NO5PS
product | N-Methyltrifluoromethanesulfonamidomethanephosphonic acid | CN(S(=O)(=O)C(F)(F)F)CP(O)(=O)O | C3H7F3NO5PS
